US05028605
2.03 g (10 mmol) of 2-amino-5-bromo-3-methylaminopyrazine are dissolved in 5 ml of dimethylformamide (DMF). A solution of 1.645 g(10 mmol) of ethyl (chloroacetyl)acetate in 5 ml of DMF is added dropwise with stirring. The mixture is maintained with stirring and under gentle reflux for 3 hours. The DMF is then evaporated off under reduced pressure and the residue, dissolved in 50 ml of anhydrous ethanol, is brought to reflux for one hour. After removal of the solvent, the residue is taken up with water, alkalinized and extracted with dichloromethane. After dehydration over anhydrous calcium chloride, the solvent is evaporated off under reduced pressure. The crude product is purified by chromatography on a silica column (eluant=dichloromethane to which 5% of methanol has been added). 0.4 g (Yld=30%) of ethyl 6-bromo-8-methylaminoimidazo[1,2-a]pyrazine-2-acetate (m.p. 104° C.) is obtained.

reactant | 2-amino-5-bromo-3-methylaminopyrazine | 10 mmol, 2.03 g | NC1=NC=C(N=C1NC)Br | C5H7BrN4
reactant | ethyl (chloroacetyl)acetate | 10 mmol, 1.645 g | ClCC(=O)CC(=O)OCC | C6H9ClO3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | DMF | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 6-bromo-8-methylaminoimidazo[1,2-a]pyrazine-2-acetate | 0.4 g, 30% | BrC=1N=C(C=2N(C1)C=C(N2)CC(=O)OCC)NC | C11H13BrN4O2
